US05780483
Synthesis of N-(2-hydroxy 4-nitro phenyl) N'-(2-methyl phenyl) urea
The urea was prepared from 2-hydroxy 4-nitro aniline(308 mg, 2 mmol) and 2-methyl phenyl isocyanate(2 mmol) by general Method B. It was purified by dilution with methylene chloride and precipitation with hexane. Filtering afforded the title compound(0.38 g, 53%). EI-MS m/z 288(M+H)+

reactant | 2-hydroxy 4-nitro aniline | 2 mmol, 308 mg | OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O3
reactant | 2-methyl phenyl isocyanate | 2 mmol | CC1=C(C=CC=C1)N=C=O | C8H7NO
product | N-(2-hydroxy 4-nitro phenyl) N'-(2-methyl phenyl) urea | 0.38 g, 53% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC1=C(C=CC=C1)C | C14H13N3O4
